US08609675B2
NIS (288 mg, 1.28 mmoL) was added to a solution of tert-butyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)piperidine-1-carboxylate (Int-12d, 741.6 mg, 1.25 mmoL) in CH3CN (10 mL). The mixture was stirred at room temperature for 1 h. Purification by column chromatography afforded tert-butyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)methyl)piperidine-1-carboxylate (Int-12e): LCMS tR=3.02 Min (5 min run, UV254nm). Mass calculated for, M+717.2, observed m/z 718.3 (M+H).

reactant | NIS | 288 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | tert-butyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)piperidine-1-carboxylate | 741.6 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)CC2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C29H53N5O4Si2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | tert-butyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)methyl)piperidine-1-carboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)CC2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C29H52IN5O4Si2
